US07365085B2
b) Propane-1-sulfonic acid (5-hydroxy-2-methyl-phenyl)-amide
To the solution of propane-1-sulfonic acid (5-methoxy-2-methyl-phenyl)-amide. (97 mg, 0.38 mmol) and CH2Cl2 (3 mL) at 0° C. was added dropwise boron tribromide (0.75 mL, 1M in CH2Cl2). The reaction mixture was stirred at 0° C. for 1 h then at RT for 1.5 h. The mixture was washed with H2O and sat. NaHCO3, extracted with CH2Cl2, dried over Na2SO4 and concentrated to give the product as a clear oil (47.1 mg, 54%): MS(ES) m/e 230.0 [M+H]+.

reactant | propane-1-sulfonic acid (5-methoxy-2-methyl-phenyl)-amide | COC=1C=CC(=C(C1)NS(=O)(=O)CCC)C | C11H17NO3S
reactant | boron tribromide | 1M, 0.75 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | Propane-1-sulfonic acid (5-hydroxy-2-methyl-phenyl)-amide | 47.1 mg, 54% | OC=1C=CC(=C(C1)NS(=O)(=O)CCC)C | C10H15NO3S
